US09447046B2
Preparation 18a: 7-bromo-2H-chromene-4-carboxamide
To a solution of 7-bromochroman-4-one (2.0 g, 8.8 mmol) and AlCl3 (118 mg, 0.9 mmol) in toluene (10 mL) was added TMSCN (1.3 mL, 9.7 mmol). The solution was stirred at 40° C. for 1.5 h. The reaction was cooled to rt, and H2SO4 (1.0 mL) was added, followed by AcOH (13 mL) and more H2SO4 (4.3 mL). The reaction was heated to 130° C. and stirred for 6 h. The reaction was cooled, poured over H2O (100 mL) and filtered. The filter cake dissolved in THF (50 mL) and filtered. The combined organic solutions were concentrated to give 1.0 g (45%) of the crude title compound as an off-white solid. [M+H] calc'd for C10H8BrNO2, 254, 256. found 254, 256.

reactant | 7-bromochroman-4-one | 8.8 mmol, 2.0 g | BrC1=CC=C2C(CCOC2=C1)=O | C9H7BrO2
reactant | AlCl3 | 0.9 mmol, 118 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | TMSCN | 9.7 mmol, 1.3 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | H2SO4 | 1.0 mL | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 4.3 mL | OS(=O)(=O)O | H2O4S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 100 mL | O | H2O
solvent | AcOH | 13 mL | CC(=O)O | C2H4O2
product | 7-bromo-2H-chromene-4-carboxamide | 1.0 g, 45% | BrC1=CC=C2C(=CCOC2=C1)C(=O)N | C10H8BrNO2
